US04477450
A mixture of 8.3 g (0.045 mole) of 2-ethyl-6-hydrazinyl-4-(4-methyl-1-piperazinyl)pyrimidine and 75 ml of triethyl orthopropionate was heated at reflux for 48 hours. After cooling the mixture was evaporated in vacuo. Diethyl ether was added to the residue and the mixture was cooled. The precipitate was collected by filtration to provide 4.5 g (37%) of 3,5-diethyl-7-(4-methyl-1-piperazinyl)-1,2,4-triazolo[4,3-c]pyrimidine. Recrystallizations from ethyl acetate-hexane and ethyl acetate-cyclohexane provided white crystalline product, m.p. 128°-131° C. Analysis for C14H22N6 : Calculated: %C, 61.3; %H, 8.1; %N, 30.6; Found: %C, 59.8; %H, 8.2; %N, 30.1. The structural assignment was confirmed by nuclear magnetic resonance and infrared spectral analyses.

reactant | 2-ethyl-6-hydrazinyl-4-(4-methyl-1-piperazinyl)pyrimidine | 0.045 mole, 8.3 g | C(C)C1=NC(=CC(=N1)N1CCN(CC1)C)NN | C11H20N6
reactant | triethyl orthopropionate | 75 ml | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 3,5-diethyl-7-(4-methyl-1-piperazinyl)-1,2,4-triazolo[4,3-c]pyrimidine | 4.5 g, 37% | C(C)C1=NN=C2N1C(=NC(=C2)N2CCN(CC2)C)CC | C14H22N6
